US03988340
Alternate preparation of Ethyl 3-(2-methoxymethyl-6-nitrobenzylamino)-propionate (10b) hydrochloride.
2-Methoxymethyl-6-nitrobenzylamine hydrochloride (20.4 g., 0.114 mole) is dissolved in a minimum volume of water and the solution is made strongly basic by the addition of 10% sodium hydroxide. The clear oil which forms is extracted into two 120-ml. portions of ether. The ether is dried with 10 g. of anhydrous sodium sulfate, filtered, and finally dried over Drierite. The dried solution is filtered and evaporated, leaving a yellow oil. The oil is dissolved in 100 ml. of absolute ethanol and 11.4 g (0.114 mole) of freshly distilled ethyl acrylate is added. This solution is allowed to stand overnight and the solvent removed by distillation from a steamcone. The oily residue is dissolved in 200 ml. of dry ether, the solution is cooled in an ice bath, and treated with dry hydrogen chloride. When precipitation is complete, the solid is filtered and dissolved in 120 ml. of boiling absolute ethanol. The hydrochloride crystallizes from this solution on cooling yielding the title product. By concentrating and cooling the mother liquor, additional title product g. is obtained. ##SPC43##

reactant | 2-Methoxymethyl-6-nitrobenzylamine hydrochloride | 0.114 mole, 20.4 g | Cl.COCC1=C(CN)C(=CC=C1)[N+](=O)[O-]
reactant | sodium hydroxide | [OH-].[Na+]
reactant | ethanol | C(C)O | C2H6O
reactant | ethyl acrylate | C(C=C)(=O)OCC | C5H8O2
solvent | water | O | H2O
product | Ethyl 3-(2-methoxymethyl-6-nitrobenzylamino)-propionate | COCC1=C(CNCCC(=O)OCC)C(=CC=C1)[N+](=O)[O-] | C14H20N2O5
